************************************************************************
* auCdl Netlist:
* 
* Library Name:  TeamKEK
* Top Cell Name: NOR
* View Name:     schematic
* Netlisted on:  Nov 15 18:29:14 2025
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: TeamKEK
* Cell Name:    NOR
* View Name:    schematic
************************************************************************

.SUBCKT NOR A B Y vdd vss
*.PININFO A:I B:I Y:O vdd:B vss:B
MM5 net4 B vdd vdd pmos_rvt w=81.0n l=20n nfin=3
MM4 Y A net4 vdd pmos_rvt w=81.0n l=20n nfin=3
MM1 Y A net1 vdd pmos_rvt w=81.0n l=20n nfin=3
MM0 net1 B vdd vdd pmos_rvt w=81.0n l=20n nfin=3
MM3 Y B vss vss nmos_rvt w=54.0n l=20n nfin=2
MM2 Y A vss vss nmos_rvt w=54.0n l=20n nfin=2
.ENDS

