************************************************************************
* auCdl Netlist:
* 
* Library Name:  TeamKEK
* Top Cell Name: NOR
* View Name:     schematic
* Netlisted on:  Dec  6 18:12:41 2025
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: TeamKEK
* Cell Name:    NOR
* View Name:    schematic
************************************************************************

.SUBCKT NOR A B VDD VSS Y
*.PININFO A:I B:I Y:O VDD:B VSS:B
MM1 Y A net1 VDD pmos_rvt w=81.0n l=20n nfin=3
MM0 net1 B VDD VDD pmos_rvt w=81.0n l=20n nfin=3
MM3 Y A VSS VSS nmos_rvt w=54.0n l=20n nfin=2
MM2 Y B VSS VSS nmos_rvt w=54.0n l=20n nfin=2
.ENDS

